US06184225B2
A solution of 3,5-difluoronitrobenzene (20 g,126 mmol) and ethyl dichloroacetate (15.8 ml, 129 mmol) in DMF (60 ml) was added to potassium t-butoxide (31.8 g, 283 mmol) in DMF (500 ml) at −25° C. over 30 minutes. The mixture was stirred for 15 minutes at −25° C. then poured on to a mixture of ice (600 g) and 2M hydrochloric acid (500 ml). The aqueous mixture was extracted with ethyl acetate, the combined extracts were washed with water and sodium hydrogen carbonate solution and dried (MgSO4) and the solvent removed by evaporation to give ethyl 2-chloro-2-(2,6-difluoro-4-nitrophenyl)ethanoate (34 g, 97%).

reactant | 3,5-difluoronitrobenzene | 126 mmol, 20 g | FC=1C=C(C=C(C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | ethyl dichloroacetate | 129 mmol, 15.8 ml | ClC(C(=O)OCC)Cl | C4H6Cl2O2
reactant | potassium t-butoxide | 283 mmol, 31.8 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2M, 500 ml | Cl | ClH
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | ethyl 2-chloro-2-(2,6-difluoro-4-nitrophenyl)ethanoate | 34 g, 97% | ClC(C(=O)OCC)C1=C(C=C(C=C1F)[N+](=O)[O-])F | C10H8ClF2NO4
